* gnetlist -g spice-sdb -o /home/rafael/Documentos/4o Curso/8o Semestre/Trabajo Fin de Grado/circuitos/spice/filtro-conjunto.sch.net -- /home/rafael/Documentos/4o Curso/8o Semestre/Trabajo Fin de Grado/circuitos/spice/filtro-conjunto.sch
*********************************************************
* Spice file generated by gnetlist                      *
* spice-sdb version 4.28.2007 by SDB --                 *
* provides advanced spice netlisting capability.        *
* Documentation at http://www.brorson.com/gEDA/SPICE/   *
*********************************************************
*vvvvvvvv  Included SPICE model from opamp.subckt vvvvvvvv
* opamp
*             non-inverting
*             | inverting
*             | | vcc
*             | | |  vss
*             | | |  |  out
*             | | |  |  |
.subckt opamp 1 2 30 40 6

RIN	1	2	10MEG

EGAIN	3 0	1 2	100K

RP1	3	4	1K
CP1	4	0	1.5915U

EBUFFER	5 0	4 0	1
ROUT	5	6	10
.ends
*^^^^^^^^  End of included SPICE model from opamp.subckt ^^^^^^^^
*
*==============  Begin SPICE netlist of main design ============
C1 8 7 740n  
R1 7 0 820k  
V1 8 0 dc 0 ac 1
XU1 7 6 0 0 4 opamp
R2 6 4 820k  
C2 6 4 7.4n  
R3 6 0 4.6k  
C3 4 1 68n  
R4 1 4 931k  
R6 1 0 931k  
R5 1 5 47k  
R7 out 2 42k  
XU3 3 2 0 0 5 opamp
C4 5 2 68n  
R9 3 4 47k  
R8 out 3 47k  
XU2 1 2 0 0 out opamp
.title Filtros conjunto
.print ac Vm(out)
.ac dec 100 0.01 1000
.end
