* opamp
*             non-inverting
*             | inverting
*             | | vcc
*             | | |  vss
*             | | |  |  out
*             | | |  |  |
.subckt opamp 1 2 30 40 6

RIN	1	2	10MEG

EGAIN	3 0	1 2	100K

RP1	3	4	1K
CP1	4	0	1.5915U

EBUFFER	5 0	4 0	1
ROUT	5	6	10
.ends
