* gnetlist -g spice-sdb -o /home/rafael/Documentos/4o Curso/8o Semestre/Trabajo Fin de Grado/circuitos/spice/paso-alta.sch.net -- /home/rafael/Documentos/4o Curso/8o Semestre/Trabajo Fin de Grado/circuitos/spice/paso-alta.sch
*********************************************************
* Spice file generated by gnetlist                      *
* spice-sdb version 4.28.2007 by SDB --                 *
* provides advanced spice netlisting capability.        *
* Documentation at http://www.brorson.com/gEDA/SPICE/   *
*********************************************************
*==============  Begin SPICE netlist of main design ============
.title Filtro paso alta
.print ac Vm(out)
.ac dec 10 0.01 100
C1 in out 740n  
R1 out 0 820k  
V1 in 0 dc 0 ac 1
.end
