* gnetlist -g spice-sdb -o /home/rafael/Documentos/4o Curso/8o Semestre/Trabajo Fin de Grado/circuitos/spice/paso-baja con ganancia.sch.net -- /home/rafael/Documentos/4o Curso/8o Semestre/Trabajo Fin de Grado/circuitos/spice/paso-baja con ganancia.sch
*********************************************************
* Spice file generated by gnetlist                      *
* spice-sdb version 4.28.2007 by SDB --                 *
* provides advanced spice netlisting capability.        *
* Documentation at http://www.brorson.com/gEDA/SPICE/   *
*********************************************************
*vvvvvvvv  Included SPICE model from opamp.subckt vvvvvvvv
* opamp
*             non-inverting
*             | inverting
*             | | vcc
*             | | |  vss
*             | | |  |  out
*             | | |  |  |
.subckt opamp 1 2 30 40 6

RIN	1	2	10MEG

EGAIN	3 0	1 2	100K

RP1	3	4	1K
CP1	4	0	1.5915U

EBUFFER	5 0	4 0	1
ROUT	5	6	10
.ends
*^^^^^^^^  End of included SPICE model from opamp.subckt ^^^^^^^^
*
*==============  Begin SPICE netlist of main design ============
XU1 1 2 0 0 out opamp
R1 2 out 820k  
.title Filtro paso baja
.print ac Vm(out)
.ac dec 10 0.1 1000
C1 2 out 7.4n  
R2 2 0 4.6k  
V1 1 0 dc 0 ac 1
.end
